US04910319
1-Benzyl-3-benzylaminopyrrolidine Method A:
1,000 g (5.34 mols) of 1-benzyl-Δ3 -pyrroline-2,5-dione are dissolved in 2.5 l of tetrahydrofuran, and 572 g (5.34 mols) of benzylamine are added with stirring at 10° to 20° C. The mixture is left to stand for 24 hours at room temperature, after which 360 g are removed from the resulting solution (3,848 g of total weight) and added to a solution of 38 g (1 mol) of lithium aluminum hydride in 380 ml of absolute dehydrated tetrahydrofuran. The mixture is refluxed for 20 hours, 500 ml of tetrahydrofuran, 38 g of water and 120 ml of tetrahydrofuran, 38 g of 10% strength potassium hydroxide solution and 114 g of water are then sucessively added to the mixture. The salts are filtered off with suction, washed with tetrahydrofuran, the filtrate is concentrated, and the residue is distilled.

reactant | benzylamine | 5.34 mols, 572 g | C(C1=CC=CC=C1)N | C7H9N
reactant | lithium aluminum hydride | 1 mol, 38 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 38 g | O | H2O
reactant | potassium hydroxide | [OH-].[K+]
reactant | water | 114 g | O | H2O
solvent | tetrahydrofuran | 2.5 l | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 380 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 1-Benzyl-3-benzylaminopyrrolidine | C(C1=CC=CC=C1)N1CC(CC1)NCC1=CC=CC=C1 | C18H22N2
